US08476449B2
5-Formyl-2-furanboronic acid (280 mg, 2 mmol) and 1,3-diiodobenzene (660 mg, 2 mmol) were dissolved in 1,2-dimethoxyethane (15 mL), tetrakis(triphenylphosphine)palladium (114 mg, 0.1 mmol) was added thereto, 2 mol/L sodium carbonate (4.6 mL) was then added thereto, and the mixture was heated to reflux for 3 hours while stirring. After the reaction was completed water (20 mL) was added, and extraction with ethyl acetate (20 mL×2) was carried out. The organic layer was washed with saturated brine, water was removed using anhydrous sodium sulfate, the solvent was then removed by evaporation under reduced pressure, and the residue was subjected to silica gel column chromatography using ethyl acetate/hexane (3/7 (volume ratio)) as an eluent, to give 5-(3-iodophenyl)furan-2-carbaldehyde in a yield of 155 mg (yield 25.9%).

reactant | 5-Formyl-2-furanboronic acid | 2 mmol, 280 mg | C(=O)C1=CC=C(O1)B(O)O | C5H5BO4
reactant | 1,3-diiodobenzene | 2 mmol, 660 mg | IC1=CC(=CC=C1)I | C6H4I2
reactant | sodium carbonate | 2 mol/L, 4.6 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 20 mL | O | H2O
solvent | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 mmol, 114 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-iodophenyl)furan-2-carbaldehyde | yield 25.9% | IC=1C=C(C=CC1)C1=CC=C(O1)C=O | C11H7IO2
